US08426447B2
To the solution of (S)-3-chloro-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine (23 mg, 0.063 mmol) in MeOH (2 mL) was added 10% Pd on Carbon (10 mg, 0.073 mmol). The mixture was hydrogenated under 1 atm of H2 for 24 h. After filtration and concentration, the crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with isocratic % to 20% MeOH in CH2CL2, to provide (S)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine as white solid.

reactant | (S)-3-chloro-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | 0.063 mmol, 23 mg | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C19H13ClN4O2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd on Carbon | 0.073 mmol, 10 mg | [Pd] | Pd
product | (S)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | N1=CC(=CC=C1)C=1C=C2C(=CC1)OC=1C=NC=CC1[C@@]21N=C(OC1)N | C19H14N4O2
